US05290780
3-[(4-Bromophenyl)methyl]-2-butyl-6-(1-methoxy-1-methylethyl)-4(3H)-quinazolinone
To a solution of 0.186 g of 60% sodium hydride and 2.90 ml of iodomethane in THF at room temperature is added 1.00 g of 3-[(4-bromophenyl)methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone. The reaction mixture is stirred overnight at room temperature and then quenched with ammonium chloride solution and diluted with water. The aqueous layer is extracted with ether and the combined organics are dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash chrmoatography eluting with ethyl acetate/hexanes (1:3) to provide the desired product.

reactant | sodium hydride | 0.186 g | [H-].[Na+]
reactant | iodomethane | 2.90 ml | IC | CH3I
reactant | 3-[(4-bromophenyl)methyl]-2-butyl-6-(1-hydroxy-1-methylethyl)-4(3H)-quinazolinone | 1.00 g | BrC1=CC=C(C=C1)CN1C(=NC2=CC=C(C=C2C1=O)C(C)(C)O)CCCC | C22H25BrN2O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-[(4-Bromophenyl)methyl]-2-butyl-6-(1-methoxy-1-methylethyl)-4(3H)-quinazolinone | BrC1=CC=C(C=C1)CN1C(=NC2=CC=C(C=C2C1=O)C(C)(C)OC)CCCC | C23H27BrN2O2
